US08470831B2
(236) (E)-N-(3-Chloro-phenyl)-3-(3-hydroxy-4-nitro-phenyl)-acrylamide
Thionyl chloride (0.83 mL, 6.6 mmol) was added portionwise to a suspension of (E)-3-(3-hydroxy-4-nitro-phenyl)-acrylic acid (1.05 g, 5.0 mmol) in DCM-DMF (20-2 mL). After stirring the resulting solution at RT for 1.5 hrs, 3-chloro-aniline (2.12 mL, 20 mmol) was added dropwise and the mixture was stirred at RT for additional 2 hrs. Then the reaction mixture was diluted with DCM and washed with water, aqueous hydrochloric acid, and brine. The organic layer was dried over sodium sulphate and evaporated. The resulting raw material was purified first by column chromatography (eluant DCM/MeOH), yielding 1.25 g of the title compound.

reactant | Thionyl chloride | 6.6 mmol, 0.83 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (E)-3-(3-hydroxy-4-nitro-phenyl)-acrylic acid | 5.0 mmol, 1.05 g | OC=1C=C(C=CC1[N+](=O)[O-])/C=C/C(=O)O | C9H7NO5
reactant | 3-chloro-aniline | 20 mmol, 2.12 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | DCM DMF | 20-2 mL | C(Cl)Cl.CN(C)C=O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (E)-N-(3-Chloro-phenyl)-3-(3-hydroxy-4-nitro-phenyl)-acrylamide | 1.25 g | ClC=1C=C(C=CC1)NC(\C=C\C1=CC(=C(C=C1)[N+](=O)[O-])O)=O | C15H11ClN2O4
